US09085575B2
132 μl (1.84 mmol, 145 mg) of acetyl chloride is added in several portions to a suspension of 602 mg (1.18 mmol) of 5-(4-hydroxyphenyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrobromide in 120 ml of THF at 0° C. The mixture is then stirred for 48 hours at room temperature and then concentrated under reduced pressure. The residue is purified by reverse-phase preparative HPLC to yield 51 mg (8%) of 4-(1-methyl-6-oxo-9-(piperazin-1-yl)-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-5-yl)phenyl acetate in the form of a yellow solid.

reactant | acetyl chloride | 1.84 mmol, 132 μl, 145 mg | C(C)(=O)Cl | C2H3ClO
reactant | 5-(4-hydroxyphenyl)-1-methyl-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrobromide | 1.18 mmol, 602 mg | Br.OC1=CC=C(C=C1)C1=NC2=C(C=3C4=C(NC(C13)=O)C=C(C=C4)N4CCNCC4)C(=NN2)C
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 4-(1-methyl-6-oxo-9-(piperazin-1-yl)-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-5-yl)phenyl acetate | 51 mg, 8% | C(C)(=O)OC1=CC=C(C=C1)C1=NC2=C(C=3C4=C(NC(C13)=O)C=C(C=C4)N4CCNCC4)C(=NN2)C | C26H24N6O3
